* source COMPARADOR
M_M2         N14558 N14658 0 0 CMOSN           
M_M1         N14558 N14603 N14603 N14603 CMOSP           
V_V1         N14658 0 3Vdc
V_V2         N14603 0 5Vdc
